US05840917
A mixture of 3-bromo-4-methylthiophene (8.85 g), N-bromosuccinimide (8.85 g), 2,2'-azobis(isobutyronitrile) (0.16 g) and carbon tetrachloride (100 ml) was stirred under reflux for 6 hours. The mixture was concentrated under reduced pressure to give a crude product of 3-bromo-4-bromomethylthiophene. A suspension of this crude product of 3-bromo-4-bromomethylthiophene and potassium acetate (30 g) in acetone (100 ml) was stirred at room temperature for 5 hours. The mixture was poured into water and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a crude product of 4-acetoxymethyl-3-bromothiophene. This crude product was dissolved in tetrahydrofuran (50 ml), and 1N aqueous sodium hydroxide (50 ml) and ethanol (20 ml) were added. The mixture was stirred at room temperature for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhdrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3-bromo-4-hydroxymethylthiophene (5.33 g) as oil. 3-Bromo-4-hydroxymethylthiophene was dissolved in methylene chloride (100 ml), and manganese dioxide (15 g) was added. The mixture was stirred at room temperature for 6 hours, and insoluble substances were removed by filtration. The filtrate was concentrated under reduced pressure to give a crude product of 4-bromo-3-thiophenecarbaldehyde. The crude product of 4-bromo-3-thiophenecarbaldehyde was dissolved in acetonitrile (50 ml), and sodium dihydrogen phosphate (1.2 g) in water (15 ml) and 30% aqueous hydrogen peroxide (3.5 ml) were added. Further, sodium chlorite (3.7 g) in water (40 ml) was added dropwise under ice-cooling. The mixture was stirred at room temperature for 2 hours, alkalified with 1N aqueous sodium hydroxide and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4-bromo-3-thiophenecarboxylic acid (3.40 g) as crystals.

reactant | 3-bromo-4-bromomethylthiophene | BrC1=CSC=C1CBr | C5H4Br2S
reactant | potassium acetate | 30 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-acetoxymethyl-3-bromothiophene | C(C)(=O)OCC=1C(=CSC1)Br | C7H7BrO2S
